US08003658B2
Preparation of (1S)—N-(1-{4-[3-chloro-4-(pyridin-2-ylmethoxy)-phenylamino]-7-methoxy-quinazolin-6-ylcarbamoyl}-ethyl)-acrylamide
300 mg of (2S)-amino-N-{4-[3-chloro-4-(pyridin-2-ylmethoxy)-phenylamino]-7-ethoxy-quinazolin-6-yl}-propionamide as a starting material was dissolved in 9 ml of THF and 3 ml of water, and reacted with 0.06 ml of acryloylchloride at room temperature for 1 hour after adding 153 mg of sodium bicarbonate. The reacted solution was extracted with a mixture of chloroform and isopropanol after adding water, washed with saturated saline solution, dried over anhydrous sodium sulfate, filtered and distilled under a reduced pressure, and the resulting residue was subjected to column chromatography (eluent-ethylacetate:methanol=15:1) to obtain the title compound (11 mg, 3%).

reactant | (2S)-amino-N-{4-[3-chloro-4-(pyridin-2-ylmethoxy)-phenylamino]-7-ethoxy-quinazolin-6-yl}-propionamide | 300 mg | N[C@H](C(=O)NC=1C=C2C(=NC=NC2=CC1OCC)NC1=CC(=C(C=C1)OCC1=NC=CC=C1)Cl)C | C25H25ClN6O3
reactant | acryloylchloride | 0.06 ml | C(C=C)(=O)Cl | C3H3ClO
reactant | sodium bicarbonate | 153 mg | C([O-])(O)=O.[Na+]
solvent | THF | 9 ml | C1CCOC1 | C4H8O
solvent | water | 3 ml | O | H2O
product | (1S)—N-(1-{4-[3-chloro-4-(pyridin-2-ylmethoxy)-phenylamino]-7-methoxy-quinazolin-6-ylcarbamoyl}-ethyl)-acrylamide | 11 mg, 3% | ClC=1C=C(C=CC1OCC1=NC=CC=C1)NC1=NC=NC2=CC(=C(C=C12)NC(=O)[C@H](C)NC(C=C)=O)OC | C27H25ClN6O4
